US04670373
To 120 ml of ethanol and 60 ml of water were added 29.6 g (0.2 mole) of 2,4,6-trimethylbenzaldehyde, 32.8 g (0.4 mole) of sodium acetate and 20.7 g (0.3 mole) of hydroxylamine hydrochloride, and the mixture was heated under reflux for 2 hours. After the reaction, the reaction mixture was added to 500 ml of water. The precipitated crystals were collected by filtration to give 28 g (0.17 mole) of 2,4,6-trimethylbenzaldoxime.

reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | 2,4,6-trimethylbenzaldehyde | 0.2 mole, 29.6 g | CC1=C(C=O)C(=CC(=C1)C)C | C10H12O
reactant | sodium acetate | 0.4 mole, 32.8 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.3 mole, 20.7 g | Cl.NO
solvent | water | 500 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | 2,4,6-trimethylbenzaldoxime | 0.17 mole, 28 g | CC1=C(C=NO)C(=CC(=C1)C)C | C10H13NO
